US07727989B2
(d) 6-[3-Methoxy-5-methylaminomethyl-4-(2-trimethylsilanylethoxy-methoxy)phenyl]-2-(2-trimethylsilanylethoxymethyl)-4-[1-(2-trimethylsilanyl-ethoxymethyl) -1H-benzimidazol-2-yl]-2H-pyridazin-3-one
200 mg of methoxy-5-{6-oxo-1-(2-trimethylsilanylethoxymethyl)-5-[1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-1,6-dihydropyridazin-3-yl}-2-(2-trimethylsilanylethoxymethoxy)benzaldehyde are dissolved in 4.5 ml of methanol and methylamine (0.146 ml of a THF solution), and 18.4 mg of sodium cyanoborohydride are added, followed by 17 mg of acetic acid. After stirring at room temperature for 16 hours, the volatile components are distilled off and the crude product is employed without further purification for the next reaction.

reactant | methoxy-5-{6-oxo-1-(2-trimethylsilanylethoxymethyl)-5-[1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-1,6-dihydropyridazin-3-yl}-2-(2-trimethylsilanylethoxymethoxy)benzaldehyde | 200 mg | COC=1C(=C(C=O)C=C(C1)C1=NN(C(C(=C1)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2)=O)COCC[Si](C)(C)C)OCOCC[Si](C)(C)C | C37H56N4O7Si3
reactant | methylamine | CN | CH5N
reactant | THF | 0.146 ml | C1CCOC1 | C4H8O
reactant | sodium cyanoborohydride | 18.4 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 4.5 ml | CO | CH4O
solvent | acetic acid | 17 mg | C(C)(=O)O | C2H4O2
product | 6-[3-Methoxy-5-methylaminomethyl-4-(2-trimethylsilanylethoxy-methoxy)phenyl]-2-(2-trimethylsilanylethoxymethyl)-4-[1-(2-trimethylsilanyl-ethoxymethyl) -1H-benzimidazol-2-yl]-2H-pyridazin-3-one | COC=1C=C(C=C(C1OCOCC[Si](C)(C)C)CNC)C=1C=C(C(N(N1)COCC[Si](C)(C)C)=O)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C38H61N5O6Si3
